US09227985B2
Bromine (70 μL, 1 mmol) was added to a mixture of 1-(1,3-thiazol-2-yl)ethanone (200 mg, 2 mmol) in AcOH (5 mL). The reaction mixture was stirred at 100° C. for 30 min. and was concentrated under reduced pressure to give 2-bromo-1-(1,3-thiazol-2-yl)ethanone as an oil (100%) used as crude.

reactant | Bromine | 1 mmol, 70 μL | BrBr | Br2
reactant | 1-(1,3-thiazol-2-yl)ethanone | 2 mmol, 200 mg | S1C(=NC=C1)C(C)=O | C5H5NOS
solvent | AcOH | 5 mL | CC(=O)O | C2H4O2
product | 2-bromo-1-(1,3-thiazol-2-yl)ethanone | 100% | BrCC(=O)C=1SC=CN1 | C5H4BrNOS
